US05270324
Methyl 3(S)-(acetylthio)butanoate
To a -23° C. solution of PPh3 (40 mmol, 10.48 g) in THF (100 mL) was added diethyl azodicarboxylate (40 mmol, 6.28 mL) dropwise and the mixture was stirred at -23° C. for 16 hours, during which time a white precipitate was obtained. A THF (30 mL) solution of methyl 3(R)-hydroxybutanoate (20 mm, 2.36 g) and thiolacetic acid (20 mmol, 2.85 mL) was slowly added and the mixture was allowed to slowly warm to 25° C. and was stirred 16 h at 25° C. Most THF was removed in vacuo and EtOAc (10 mL) and hexanes (100 mL) were added. Insolubles were removed by filtration and the residue was purified by chromatography on silica gel to afford the title compound.

reactant | PPh3 | 40 mmol, 10.48 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 40 mmol, 6.28 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methyl 3(R)-hydroxybutanoate | 2.36 g | O[C@@H](CC(=O)OC)C | C5H10O3
reactant | thiolacetic acid | 20 mmol, 2.85 mL | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Methyl 3(S)-(acetylthio)butanoate | C(C)(=O)S[C@H](CC(=O)OC)C | C7H12O3S
